US08222416B2
A mixture of 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (390 mg, 0.98 mmol) and 10% palladium on activated carbon (50 mg) in methanol (200 mL) was heated at 50° C. under 50 bar of hydrogen in a steel bomb pressure for 6 h. The mixture was cooled to room temperature. The catalyst was removed by filtration and washed with ethyl acetate. The filtrate was concentrated in vacuo and purified using a Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) to afford 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine (240 mg, 61.4%) as a white solid: LC/MS m/e calcd for C22H26N2O3S [M+H]+ 399.53; observed 399.2. 1H NMR (400 MHz, CDCl3) δ ppm 11.86 (s, 1H), 7.92 (d, J=8.6 Hz, 3H), 7.55 (d, J=7.8 Hz, 1H), 7.28 (s, 3H), 6.49 (s, 1H), 4.37 (t, J=7.6 Hz, 1H), 3.97 (s, 3H), 3.07 (s, 3H), 2.13-2.29 (m, 2H), 1.79 (d, J=20.0 Hz, 2H), 1.65 (m, 2H), 1.45-1.56 (m, 2H), 1.14-1.25 (m, 2H).

reactant | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-vinyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 0.98 mmol, 390 mg | C1(CCCC1)C=C(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)OC)N1 | C22H24N2O3S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 2-[2-cyclopentyl-1-(4-methanesulfonyl-phenyl)-ethyl]-5-methoxy-1H-pyrrolo[2,3-b]pyridine | 240 mg, 61.4% | C1(CCCC1)CC(C1=CC=C(C=C1)S(=O)(=O)C)C1=CC=2C(=NC=C(C2)OC)N1 | C22H26N2O3S
